US05811270
After the integration reaction, each reaction was stop with sodium dodecyl sulfate and proteinase K at final concentrations of 1% and 1 mg/ml, respectively. The samples were further incubated at 37° C. for 2 hr and then subjected to phenol-chloroform (1:1) and ether extractions. The DNA was precipitated by ethanol. Aliquots of each sample were subjected to electrophoresis on 1 or 1.5% agarose gels which were dried and the radioactive products were quantitated by a Molecular Dynamics PhosphorImager. The dried gels were also exposed to X-ray films with or without an intensifying screen. For BglII restriction analysis of the M-2/pGEM recombinants, each 20 μl reaction mixture was digested by 12 units of Bglll for 2 hr to ensure complete digestion. The samples were subjected to electrophoresis on 1.5% agarose gels in a Tris-borate-EDTA buffer with 0.5 μg/ml of ethidium bromide for 13 hr at 100 volts. The gels were dried and analyzed as described above. Linear DNA fragments (Boehringer Mannheim), pGEM, and R35(Ref.2) were used as unlabeled molecular weight markers. Linear R35 (3.4 Kbp) was 5' end labeled with γ-32P ATP and was used to identify the same size BglII linerarized M-2/pGEM recombinants which resulted from the concerted insertion of M-2 into pGEM.

reactant | sodium dodecyl sulfate | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Na+]
reactant | Tris-borate-EDTA | B(O)(O)O.C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O.C(C(CO)(CO)N)O
reactant | ethidium bromide | CC[N+]1=C2C=C(C=CC2=C3C=CC(=CC3=C1C=4C=CC=CC4)N)N.[Br-]
product | pGEM | CCCCCC(=O)CC[C@H]1[C@@H](CC(=O)[C@@H]1C/C=C\CCCC(=O)O)O | C20H32O5
